US07615569B2
A solution of 4-acetyl-benzenesulfonyl chloride (50 mmol) and 2-aminothiazole (50 mmol) in dichloromethane and pyridine (300 mL, 8:2) was stirred for one day. After concentrated in vacuo, the residue was diluted with ethyl acetate (500 mL) and the solution was washed with 1N HCl solution, sat NaHCO3, dried over MgSO4, and concentrated in vacuo. The residue was recrystallized in ethyl acetate to give 4-acetyl-N-thiazol-2-yl-benzenesulfonamide (35 mmol) as a yellow solid.

reactant | 4-acetyl-benzenesulfonyl chloride | 50 mmol | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
reactant | 2-aminothiazole | 50 mmol | NC=1SC=CN1 | C3H4N2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | pyridine | 300 mL | N1=CC=CC=C1 | C5H5N
product | 4-acetyl-N-thiazol-2-yl-benzenesulfonamide | 35 mmol | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C11H10N2O3S2
